US07135482B2
1-(2,4-Difluorobenzyl)-3-hydroxymethyl-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared by coupling of 1-(2,4-difluoro-benzyl)-3-hydroxymethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid and O-methyl hydroxylamine hydrochloride in a manner similar to step (c) of example 1. 1H NMR (CD3OD) δ; 8.76 (s, 1H), 8.41 (s, 1H), 7.58 (s, 1H), 7.23–7.29 (m, 1H), 6.88–7.00 (m, 2H), 5.54 (s, 2H), 4.80 (s, 2H), 3.82 (s, 3H). LCMS (APCI, M+H+): 348.0. HRMS calcd for C17H16F2N3O3 (M+H) 348.1160. found 348.1148. HPLC: 100% purity.

reactant | 1-(2,4-difluoro-benzyl)-3-hydroxymethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)CO)C=CC(=C1)F | C16H12F2N2O3
reactant | O-methyl hydroxylamine hydrochloride | Cl.CON
product | 1-(2,4-Difluorobenzyl)-3-hydroxymethyl-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)NOC)CO)C=CC(=C1)F | C17H15F2N3O3
